US06852726B2
1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonic acid
1-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-1H-indole (1.0 g, 4.243 mmol) was dissolved/suspended in dichloroethane (120 ml) and cooled in ice under a nitrogen atmosphere. Trimethylsilylchlorosulfonate (0.654 ml, 0.801 g, 4.243 mmol) was added to the cooled solution dropwise with stirring. The mixture was allowed to warm up to room temperature with stirring, and stirring was continued overnight. Methanol (20 mL) was then added, followed by stirring at room temperature for 20 minutes. The mixture was then rotovapped to dryness. The crude product was recrystallized from MeOH/EtOAc as the hydrochloride salt of 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonic acid.

reactant | 1-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-1H-indole | 4.243 mmol, 1.0 g | N1C(=NCC1)CN1C=CC2=CC=CC=C12 | C12H13N3
reactant | Trimethylsilylchlorosulfonate | 4.243 mmol, 0.654 ml, 0.801 g | C[Si](C)(C)OS(=O)(=O)Cl | C3H9ClO3SSi
reactant | Methanol | 20 mL | CO | CH4O
solvent | dichloroethane | 120 ml | ClC(C)Cl | C2H4Cl2
product | 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonic acid | N1C(=NCC1)CN1C=C(C2=CC=CC=C12)S(=O)(=O)O | C12H13N3O3S
